US08492582B2
Trifluoroacetic acid (4.0 mL) was added to the obtained tert-butyl 2-(5-phenylpyridine-3-carboxamido)-4-(thiophen-3-yl)benzoate, followed by stirring at room temperature for 1 hour and 30 minutes. The solvent was evaporated under reduced pressure, and diisopropyl ether was added to the obtained residue. The solid substance was collected by filtration to obtain 47 mg of 2-(5-phenylpyridine-3-carboxamido)-4-(thiophen-3-yl)benzoic acid as a white solid.

reactant | Trifluoroacetic acid | 4.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 2-(5-phenylpyridine-3-carboxamido)-4-(thiophen-3-yl)benzoate | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=CSC=C1 | C27H24N2O3S
product | 2-(5-phenylpyridine-3-carboxamido)-4-(thiophen-3-yl)benzoic acid | 47 mg | C1(=CC=CC=C1)C=1C=C(C=NC1)C(=O)NC1=C(C(=O)O)C=CC(=C1)C1=CSC=C1 | C23H16N2O3S
